US08076324B2
4-Cyclopropylmethoxy-4-(4-phenylthiazol-2-yl)cyclohexanone
8.3 g of 2-(8-cyclopropylmethoxy-1,4-dioxaspiro[4.5]dec-8-yl)-4-phenylthiazole and 5.5 g of p-toluenesulfonic acid were dissolved in 137 ml of acetone and 14 ml of water. The mixture was stirred at room temperature for 4 days, then poured onto 100 ml of a saturated aqueous sodium hydrogencarbonate solution. The acetone was distilled off and the residue extracted three times with 100 ml each of EA. The combined organic phases were dried over magnesium sulfate and the solvent was removed in vacuo. 5.9 g of the title compound were obtained as an amorphous solid.

reactant | 2-(8-cyclopropylmethoxy-1,4-dioxaspiro[4.5]dec-8-yl)-4-phenylthiazole | 8.3 g | C1(CC1)COC1(CCC2(OCCO2)CC1)C=1SC=C(N1)C1=CC=CC=C1 | C21H25NO3S
reactant | p-toluenesulfonic acid | 5.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | acetone | 137 ml | CC(=O)C | C3H6O
solvent | water | 14 ml | O | H2O
product | 4-Cyclopropylmethoxy-4-(4-phenylthiazol-2-yl)cyclohexanone | 5.9 g | C1(CC1)COC1(CCC(CC1)=O)C=1SC=C(N1)C1=CC=CC=C1 | C19H21NO2S
